US05232922
4-[2-(1-Methyl-4-imidazolesulfonyl)aminoethyl]phenoxyacetic acid
6.3 g (32 mmol) of 4-(2-aminoethyl)phenoxyacetic acid are added to a solution of 9.7 g (79 mmol) of potassium carbonate in 50 ml of water and the mixture is stirred for 5 minutes. A suspension of 5.8 g (32 mmol) of 1-methyl-4-imidazolesulfonyl chloride from Example C-1 in 20 ml of water is slowly added to this suspension. The mixture is heated to 80° C. and stirred at this temperature for 2 hours. After cooling to room temperature, the reaction solution is acidified to pH 4 using 2N hydrochloric acid. The precipitate deposited is separated off, washed several times with water and recrystallized from dilute acetic acid in order to give the title compound of melting point 203°-204° C.

reactant | 4-(2-aminoethyl)phenoxyacetic acid | 32 mmol, 6.3 g | NCCC1=CC=C(OCC(=O)O)C=C1 | C10H13NO3
reactant | potassium carbonate | 79 mmol, 9.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methyl-4-imidazolesulfonyl chloride | 32 mmol, 5.8 g | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 4-[2-(1-Methyl-4-imidazolesulfonyl)aminoethyl]phenoxyacetic acid | CN1C=NC(=C1)S(=O)(=O)NCCC1=CC=C(OCC(=O)O)C=C1 | C14H17N3O5S
